US08735579B2
5-tert-butyl-2-hydroxy-3-nitro-benzaldehyde
At −30° C. 4.84 g nitroniumtetrafluoroborate are added to a solution of 5.00 g 5-tert-butyl-2-hydroxy-benzaldehyde in 200 ml acetonitrile. The solution is heated to −15° C. within 1 h and then combined with ethyl acetate and saturated aqueous NaHCO3 solution. The resulting mixture is extracted with ethyl acetate, and the combined extracts are washed with saturated aqueous saline solution, dried (MgSO4) and evaporated down. The residue is taken up in 2 ml of water and 40 ml concentrated acetic acid, and the resulting mixture is refluxed for 2 h. The cooled solution is poured into ice-cold water, and the precipitate formed is filtered off and dissolved in ethyl acetate. The organic solution is dried (MgSO4) and evaporated down. The oil remaining rapidly solidifies.

reactant | nitroniumtetrafluoroborate | 4.84 g | F[B-](F)(F)F.O=[N+]=O
reactant | 5-tert-butyl-2-hydroxy-benzaldehyde | 5.00 g | C(C)(C)(C)C=1C=CC(=C(C=O)C1)O | C11H14O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 5-tert-butyl-2-hydroxy-3-nitro-benzaldehyde | C(C)(C)(C)C=1C=C(C(=C(C=O)C1)O)[N+](=O)[O-] | C11H13NO4
